* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -2.08921304813768e-05
Fd1_1 0 s1 V1 -0.0010446065240688402
Gr1_1_1 0 s1 x1_a1 0 -14061576335.001085
Gr2_re_1_1 0 s1 x2_re_a1 0 -23400194870.79827
Gr2_im_1_1 0 s1 x2_im_a1 0 -37686831969.26156
Gr3_re_1_1 0 s1 x3_re_a1 0 77231.6771277281
Gr3_im_1_1 0 s1 x3_im_a1 0 -98880.37516092618
Gr4_re_1_1 0 s1 x4_re_a1 0 70811.70994955821
Gr4_im_1_1 0 s1 x4_im_a1 0 -3904.805059577659
Gr5_re_1_1 0 s1 x5_re_a1 0 426994.3197561852
Gr5_im_1_1 0 s1 x5_im_a1 0 947945.088471246
Gr6_re_1_1 0 s1 x6_re_a1 0 156529.18226395393
Gr6_im_1_1 0 s1 x6_im_a1 0 118804.60964249498
Gr7_re_1_1 0 s1 x7_re_a1 0 933169.9922562612
Gr7_im_1_1 0 s1 x7_im_a1 0 540389.9496306853
Gr8_re_1_1 0 s1 x8_re_a1 0 -57536.95242562411
Gr8_im_1_1 0 s1 x8_im_a1 0 113502.10891087572
Gr9_re_1_1 0 s1 x9_re_a1 0 207705.5289179025
Gr9_im_1_1 0 s1 x9_im_a1 0 394789.6443361803
Gr10_re_1_1 0 s1 x10_re_a1 0 186054.97521522193
Gr10_im_1_1 0 s1 x10_im_a1 0 221419.45812248625
Gr11_1_1 0 s1 x11_a1 0 -4.9281931718541886e-12
Gd1_2 0 s1 p2 0 -3.875154601573394e-05
Fd1_2 0 s1 V2 -0.001937577300786697
Gr1_1_2 0 s1 x1_a2 0 67310372206.57842
Gr2_re_1_2 0 s1 x2_re_a2 0 -33649123251.122536
Gr2_im_1_2 0 s1 x2_im_a2 0 -62284430836.00863
Gr3_re_1_2 0 s1 x3_re_a2 0 -5677.352340992487
Gr3_im_1_2 0 s1 x3_im_a2 0 5202.956494774222
Gr4_re_1_2 0 s1 x4_re_a2 0 -23521.9888541205
Gr4_im_1_2 0 s1 x4_im_a2 0 12474.946241886077
Gr5_re_1_2 0 s1 x5_re_a2 0 -2654.2631120650044
Gr5_im_1_2 0 s1 x5_im_a2 0 2229.332086176431
Gr6_re_1_2 0 s1 x6_re_a2 0 -113.28893050680409
Gr6_im_1_2 0 s1 x6_im_a2 0 672.2506235541296
Gr7_re_1_2 0 s1 x7_re_a2 0 139.46215174500097
Gr7_im_1_2 0 s1 x7_im_a2 0 3212.9558087862983
Gr8_re_1_2 0 s1 x8_re_a2 0 -180.47093894551327
Gr8_im_1_2 0 s1 x8_im_a2 0 236.18554985830303
Gr9_re_1_2 0 s1 x9_re_a2 0 -294.3244732844893
Gr9_im_1_2 0 s1 x9_im_a2 0 1224.6836744211919
Gr10_re_1_2 0 s1 x10_re_a2 0 69.95856689319109
Gr10_im_1_2 0 s1 x10_im_a2 0 799.2517337100375
Gr11_1_2 0 s1 x11_a2 0 -4.2975772184467394e-13
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.3341804320791913e-12
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 5.770599220436746e-12
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 137795577228.32608
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -137795577228.32608
Rp2_im_im_a1 0 x2_im_a1 5.770599220436746e-12
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 7.3232404781265944e-09
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 58297877243.068886
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -58297877243.068886
Rp3_im_im_a1 0 x3_im_a1 7.3232404781265944e-09
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 4.910857918345789e-08
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 54924507797.36881
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -54924507797.36881
Rp4_im_im_a1 0 x4_im_a1 4.910857918345789e-08
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 7.238281371047656e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 40738927297.29705
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -40738927297.29705
Rp5_im_im_a1 0 x5_im_a1 7.238281371047656e-10
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 3.1200164930624617e-09
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 38172334364.00678
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -38172334364.00678
Rp6_im_im_a1 0 x6_im_a1 3.1200164930624617e-09
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 6.708049656056827e-10
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 34828016432.83462
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -34828016432.83462
Rp7_im_im_a1 0 x7_im_a1 6.708049656056827e-10
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 4.381980274588069e-09
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 14203842503.852423
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -14203842503.852423
Rp8_im_im_a1 0 x8_im_a1 4.381980274588069e-09
Cx9_re_a1 x9_re_a1 0 1.0
Gx9_re_a1 0 x9_re_a1 p1 0 0.1414213562373095
Fx9_re_a1 0 x9_re_a1 V1 7.0710678118654755
Rp9_re_re_a1 0 x9_re_a1 1.3067946734590043e-09
Gp9_re_im_a1 0 x9_re_a1 x9_im_a1 0 27134666044.544815
Cx9_im_a1 x9_im_a1 0 1.0
Gp9_im_re_a1 0 x9_im_a1 x9_re_a1 0 -27134666044.544815
Rp9_im_im_a1 0 x9_im_a1 1.3067946734590043e-09
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 1.8867916261492024e-09
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 23456405934.04704
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -23456405934.04704
Rp10_im_im_a1 0 x10_im_a1 1.8867916261492024e-09
Cx11_a1 x11_a1 0 1.0
Gx11_a1 0 x11_a1 p1 0 0.07071067811865475
Fx11_a1 0 x11_a1 V1 3.5355339059327378
Rp11_a1 0 x11_a1 219408.7258827635
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -3.875154601573394e-05
Fd2_1 0 s2 V1 -0.001937577300786697
Gr1_2_1 0 s2 x1_a1 0 67310372206.57842
Gr2_re_2_1 0 s2 x2_re_a1 0 -33649123251.122536
Gr2_im_2_1 0 s2 x2_im_a1 0 -62284430836.00863
Gr3_re_2_1 0 s2 x3_re_a1 0 -5677.352340992483
Gr3_im_2_1 0 s2 x3_im_a1 0 5202.956494774234
Gr4_re_2_1 0 s2 x4_re_a1 0 -23521.98885412045
Gr4_im_2_1 0 s2 x4_im_a1 0 12474.946241886051
Gr5_re_2_1 0 s2 x5_re_a1 0 -2654.263112064963
Gr5_im_2_1 0 s2 x5_im_a1 0 2229.3320861764046
Gr6_re_2_1 0 s2 x6_re_a1 0 -113.28893050680217
Gr6_im_2_1 0 s2 x6_im_a1 0 672.2506235541166
Gr7_re_2_1 0 s2 x7_re_a1 0 139.46215174499312
Gr7_im_2_1 0 s2 x7_im_a1 0 3212.9558087862697
Gr8_re_2_1 0 s2 x8_re_a1 0 -180.47093894551404
Gr8_im_2_1 0 s2 x8_im_a1 0 236.18554985829002
Gr9_re_2_1 0 s2 x9_re_a1 0 -294.3244732844956
Gr9_im_2_1 0 s2 x9_im_a1 0 1224.6836744212312
Gr10_re_2_1 0 s2 x10_re_a1 0 69.958566893171
Gr10_im_2_1 0 s2 x10_im_a1 0 799.2517337100405
Gr11_2_1 0 s2 x11_a1 0 -4.2975772184437374e-13
Gd2_2 0 s2 p2 0 -3.081988761249321e-05
Fd2_2 0 s2 V2 -0.0015409943806246607
Gr1_2_2 0 s2 x1_a2 0 258579020865.67337
Gr2_re_2_2 0 s2 x2_re_a2 0 -89022808025.00932
Gr2_im_2_2 0 s2 x2_im_a2 0 -7021961797.445444
Gr3_re_2_2 0 s2 x3_re_a2 0 72134.94496522973
Gr3_im_2_2 0 s2 x3_im_a2 0 -107285.67001654964
Gr4_re_2_2 0 s2 x4_re_a2 0 63910.17759766254
Gr4_im_2_2 0 s2 x4_im_a2 0 -31585.764903765223
Gr5_re_2_2 0 s2 x5_re_a2 0 428100.5834010698
Gr5_im_2_2 0 s2 x5_im_a2 0 943852.8509468731
Gr6_re_2_2 0 s2 x6_re_a2 0 156226.43716283375
Gr6_im_2_2 0 s2 x6_im_a2 0 118061.94970021474
Gr7_re_2_2 0 s2 x7_re_a2 0 931265.579803218
Gr7_im_2_2 0 s2 x7_im_a2 0 537085.358179672
Gr8_re_2_2 0 s2 x8_re_a2 0 -57385.780579099446
Gr8_im_2_2 0 s2 x8_im_a2 0 113212.57564466241
Gr9_re_2_2 0 s2 x9_re_a2 0 207542.38038038297
Gr9_im_2_2 0 s2 x9_im_a2 0 393366.6942124804
Gr10_re_2_2 0 s2 x10_re_a2 0 185718.60494705226
Gr10_im_2_2 0 s2 x10_im_a2 0 220584.50388832463
Gr11_2_2 0 s2 x11_a2 0 3.0444291191873034e-12
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.3341804320791913e-12
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 5.770599220436746e-12
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 137795577228.32608
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -137795577228.32608
Rp2_im_im_a2 0 x2_im_a2 5.770599220436746e-12
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 7.3232404781265944e-09
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 58297877243.068886
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -58297877243.068886
Rp3_im_im_a2 0 x3_im_a2 7.3232404781265944e-09
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 4.910857918345789e-08
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 54924507797.36881
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -54924507797.36881
Rp4_im_im_a2 0 x4_im_a2 4.910857918345789e-08
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 7.238281371047656e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 40738927297.29705
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -40738927297.29705
Rp5_im_im_a2 0 x5_im_a2 7.238281371047656e-10
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 3.1200164930624617e-09
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 38172334364.00678
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -38172334364.00678
Rp6_im_im_a2 0 x6_im_a2 3.1200164930624617e-09
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 6.708049656056827e-10
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 34828016432.83462
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -34828016432.83462
Rp7_im_im_a2 0 x7_im_a2 6.708049656056827e-10
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 4.381980274588069e-09
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 14203842503.852423
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -14203842503.852423
Rp8_im_im_a2 0 x8_im_a2 4.381980274588069e-09
Cx9_re_a2 x9_re_a2 0 1.0
Gx9_re_a2 0 x9_re_a2 p2 0 0.1414213562373095
Fx9_re_a2 0 x9_re_a2 V2 7.0710678118654755
Rp9_re_re_a2 0 x9_re_a2 1.3067946734590043e-09
Gp9_re_im_a2 0 x9_re_a2 x9_im_a2 0 27134666044.544815
Cx9_im_a2 x9_im_a2 0 1.0
Gp9_im_re_a2 0 x9_im_a2 x9_re_a2 0 -27134666044.544815
Rp9_im_im_a2 0 x9_im_a2 1.3067946734590043e-09
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 1.8867916261492024e-09
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 23456405934.04704
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -23456405934.04704
Rp10_im_im_a2 0 x10_im_a2 1.8867916261492024e-09
Cx11_a2 x11_a2 0 1.0
Gx11_a2 0 x11_a2 p2 0 0.07071067811865475
Fx11_a2 0 x11_a2 V2 3.5355339059327378
Rp11_a2 0 x11_a2 219408.7258827635
.ENDS s_equivalent
